US05098985
Equimolar amounts of 4-nitrobenzil and 4-phenoxyphenol are reacted in the presence of potassium t-butoxide under conditions described in Example 56 paragraph (d) to form 4-(phenoxyphenoxy)benzil. A polyquinoxaline terminated by aromatic groups which are susceptible to aromatic electrophilic substitution is synthesized by the reaction of p-BOB from Example 56, -(phenoxyphenoxy)benzil and 3,3',4,4'-tetraaminobiphenyl in m-cresol. The resulting polyquinoxaline polymer is isolated.

reactant | 4-nitrobenzil | [N+](=O)([O-])C1=CC=C(C=C1)C(=O)C(=O)C1=CC=CC=C1 | C14H9NO4
reactant | 4-phenoxyphenol | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
product | 4-(phenoxyphenoxy)benzil | O(C1=CC=CC=C1)C1=C(OC2=CC=C(C=C2)C(=O)C(=O)C2=CC=CC=C2)C=CC=C1 | C26H18O4
